Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Cefazolin / Cefaclor / Prednisone / Hayfever / 
Mold Extracts
 
Attending: ___.
 
Chief Complaint:
Branch retinal artery occlusion of right eye.

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ right-handed woman with  
diabetes,
hyperlipidemia, and a history of breast cancer (remission since
___ who presents with branch retinal artery occlusion of the
right eye. 

She was in her usual state of health until 11:30AM today when 
she
had sudden onset visual loss affecting the top third of her 
right
eye.  She describes it like a gray shade over the top third of
her vision from that eye.  She waited to see if it would go away
but made a 3:30PM appointment with an ophthalmologist (Dr. 
___ who diagnosed branch retinal artery occlusion in the
right eye. He performed ocular massage for 30 minutes, and on
discussion with her PCP (Dr. ___ sent her to the 
ED
for stroke workup. 

Neuro ROS:
+ Visual loss in top third of right eye
- No recent headache, diplopia, dysarthria, lightheadedness. No
difficulties producing or comprehending speech.  No focal
weakness, numbness, parasthesiae. No difficulty with gait.

General ROS: 
- No recent fever, chest pain, shortness of breath, nausea,
vomiting, diarrhea, constipation.

 
Past Medical History:
- Diabetes type II
- Hyperlipidemia
- Breast cancer (In remission since ___. Large, T3 lesion, 
HER-2
positive. Treated with anthracycline and Taxol containing
chemotherapy.)
- Depression

- PSORIASIS
- DIABETIC RETINOPATHY
- IRON DEFICIENCY ANEMIA
- VITAMIN B12 DEFICIENCY 

Surgical History  (Last Verified ___ by ___,
NP):
PARTIAL MASTECTOMY                                    ___      

CATARACT SURGERY                                                
bilateral                                                       

 
Social History:
___
Family History:
=== FAMILY Hx:
Father with hemorrhagic stroke and diabetes.
No other history of stroke, bleeding, clotting disorders.
No seizures or migraines.

 
Physical Exam:
=== EXAM: 
-Vitals: T:97.6  BP:175/87  HR:16  RR:16  SaO2:97%

-General: Awake, cooperative, NAD.
-HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted 
in
oropharynx.
-Neck: Supple. No carotid bruits appreciated. No nuchal 
rigidity.
-Cardiac: RRR. Well perfused. 
-Pulmonary: Breathing comfortably on room air.
-Abdomen: Soft, NT/ND. 
-Extremities: No cyanosis, clubbing, or edema bilaterally. 
-Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact comprehension. Normal
prosody. There are no paraphasic errors. Able to read without
difficulty. Speech is not dysarthric. Able to follow both 
midline
and appendicular commands. Had good knowledge of current events.
There is no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 5 to 3mm sluggish (recently dilated). Superior field
deficit in right eye. Unable to appreciate pallor in right
inferior retina (as reported by outpatient ophthalmologist) due
to glare in ED hall. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact to speech.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline and equal strength bilaterally.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___      ___   5    5  5     5     5  
R  5    ___      ___   5    5  5     5     5  

-Sensory: No deficits to light touch throughout. 

-DTRs:
  Bi Tri ___ Pat Ach 
L  2  1    1    2   0
R  2  1    1    2   0  
Toes mute. 

-Coordination: No intention tremor. No dysmetria on FNF, able to
continue with eyes closed. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent. Stable to retropulsion. 

==============
DISCHARGE EXAM
===============
CN: 
R eye Fundoscopy: No visible ___ plaque or retinal 
pallor. Disc sharp. Fields - Small rim of superior visual field 
deficit in the right eye. The left eye visual field is full. 
Visual Acuity: L ___ -1; R ___ -1. 
EOMI. PERRL - no APD. 
Otherwise normal. 

Motor: Normal tone. No pronator drift - ___ in b/l deltoids, 
biceps, triceps, IP, hamstring, quads

Sensory: Intact to light touch in all four extremities

Coordination - no ataxia on finger/nose/finger. 

 
Pertinent Results:
==============
ADMISSION LABS
==============

___ 10:30PM BLOOD WBC-7.1 RBC-4.11 Hgb-11.8 Hct-35.3 MCV-86 
MCH-28.7 MCHC-33.4 RDW-13.5 RDWSD-42.1 Plt ___
___ 10:30PM BLOOD Neuts-62.5 ___ Monos-5.7 Eos-0.7* 
Baso-0.4 Im ___ AbsNeut-4.41 AbsLymp-2.14 AbsMono-0.40 
AbsEos-0.05 AbsBaso-0.03
___ 10:30PM BLOOD ___ PTT-28.8 ___
___ 10:30PM BLOOD Plt ___
___ 10:30PM BLOOD Glucose-144* UreaN-20 Creat-0.9 Na-136 
K-4.3 Cl-96 HCO3-24 AnGap-16
___ 10:30PM BLOOD ALT-16 AST-18 AlkPhos-112* TotBili-0.3
___ 10:30PM BLOOD cTropnT-<0.01
___ 10:30PM BLOOD CK-MB-2
___ 10:30PM BLOOD Albumin-4.5 Calcium-10.6* Phos-3.6 Mg-1.6 
Cholest-224*
___ 10:30PM BLOOD %HbA1c-7.9* eAG-180*
___ 10:30PM BLOOD Triglyc-209* HDL-58 CHOL/HD-3.9 
LDLcalc-124
___ 10:30PM BLOOD CRP-4.0
___ 10:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 10:30PM BLOOD SED RATE-PND
.
.
=============
IMAGING
=============
CTA HEAD AND NECK ___
CT HEAD WITHOUT CONTRAST: 
There is no evidence of no evidence of infarction, hemorrhage, 
edema, or mass. 
The ventricles and sulci are normal in size and configuration. 
  
CTA HEAD AND NECK: 
The vessels of the circle of ___ and their principal 
intracranial branches appear normal without stenosis, occlusion, 
oraneurysm formation > 3 mm. The dural venous sinuses are 
patent. 
  
Multifocal atherosclerotic calcifications are seen predominantly 
within the bilateral common carotid arteries at the bifurcation 
and within the bilateral carotid siphons. The carotid and 
vertebral arteries and their major branches are patent with no 
evidence of substantial stenoses. 
.
.
MRI BRAIN W/O CONTRAST ___

Ventricles, sulci, cisterns appear normal. There is no evidence 
for an acute infarction. 
There is no intracranial hemorrhage or mass effect. The major 
vascular flow voids are preserved There are bilateral lens 
implants.  Clear paranasal sinuses, mastoids. 

No acute infarction. Otherwise normal. 
.
.
CHEST XRAY ___
  
No acute cardiopulmonary abnormality. 

 
Brief Hospital Course:
___ with DM, HLD, and hx breast cancer p/w branch retinal 
artery occlusion of right eye with ___ plaque and 
retinal pallor seen by ophthalmologist before transfer to the 
hospital. On our exam, ___ plaque and retinal pallor not 
visible on our exam. She has a small rim of superior visual 
field deficit in the right eye. The left eye visual field is 
full. L ___ -1; R ___ -1. EOMI. PERRL - no APD. Otherwise 
cranial nerves, motor, sensory, coordination, gait exam all 
normal. She had no ankle jerks b/l likely ___ diabetes.

The etiology of her BRAO is likely from carotid atherosclerosis 
with the presence of ___ plaque. The presence of a 
___ plaque makes Giant Cell Arteritis unlikely. 

Her LDL 124; Chol 224, HbA1C 7.9, TSH pending. INR 1.2. ESR 
pending, CRP 4.0. 

Therefore, her Atorvastatin was increased to 80mg QHS, aspirin 
81mg was switched to Plavix 75mg daily. 

Carotid US was ordered to establish baseline for future 
monitoring but could not be performed over the weekend. This was 
ordered as an  outpatient and should be scheduled on ___. 

She was counseled on dietary changes and on the risk for future 
stroke. She is a never smoker. 

==================================

TRANSITIONAL LISSUES
- Increase to Atorvastatin 80mg
- Start Plavix 75mg 
- Stop ASA 81
- Outpatient Carotid Ultrasound
- PCP follow up
- Stroke Follow up

===================================

 AHA/ASA Core Measures for Ischemic Stroke and Transient 
Ischemic Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 124) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 ]  
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - Plavix () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Citalopram 20 mg PO DAILY 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
4. LORazepam 1 mg PO DAILY:PRN anxiety 
5. Zolpidem Tartrate 10 mg PO QHS 
6. Aspirin 81 mg PO DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
9. Cetirizine 10 mg PO DAILY:PRN allergies 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
4.  Cetirizine 10 mg PO DAILY:PRN allergies  
5.  Citalopram 20 mg PO DAILY  
6.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
7.  LORazepam 1 mg PO DAILY:PRN anxiety  
8.  MetFORMIN (Glucophage) 1000 mg PO BID  
9.  Zolpidem Tartrate 10 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Branch Retinal Artery Occlusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted with signs of a cholesterol clot in a branch 
of the retinal artery causing decreased blood flow and problems 
with your vision. We can only tell with time if your vision will 
improve over time. On your evaluation, we no longer see the 
cholesterol plaque is a good sign. This likely happened due to 
cholesterol deposits in your neck vessels. 

You have multiple risk factors for stroke - increased 
cholesterol, atherosclerotic plaque in your blood vessels in 
your neck, and diabetes. 

To reduce your risk factors for stroke and further vascular 
events, we will stop Aspirin and start Plavix 75mg daily. We 
will also increase your cholesterol medication - Atorvastatin to 
80mg to be taken at night. You can also modify your diet and 
control your diabetes to reduce your risk of future stroke. 

Medication changes: 
Stop Aspirin
Start Plavix 75mg daily
Increase Atorvastatin to 80mg at night

You will also need to obtain a carotid ultrasound so that this 
can be followed in the future. This could not be done in the 
hospital because the ultrasound department does not do this 
study over the weekend. 

 Please follow up with Neurology and your primary care physician 
as listed below.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___